US07589232B2
Step a) Formation of ethyl 3-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-4-fluorobenzoate
The titled compound was prepared following the procedure A using 4-[(4-butylphenyl)ethenyl]benzaldehyde and ethyl 3-amino-4-fluorobenzoate as a pale yellow oil (61%). 1H NMR (CDCl3, 300 MHz) δ 7.49 (d, J=8.3 Hz, 2H), 7.42 (d, J=7.9 Hz, 2H), 7.35 (m, 4H), 7.14 (d, J=7.9 Hz, 2H), 7.00 (dd, J=11.0, 8.7 Hz, 1H), 4.41 (brs, 2H), 4.30 (q, J=7.2 Hz, 2H), 2.60 (t, J=7.7 Hz, 2H), 1.69-1.53 (m, 4H), 1.34 (t, J=7.2 Hz, 3H), 0.91 (t, J=7.4 Hz, 3H). HPLC, Rt: 5.87 min (Purity: 94.3%).

reactant | 4-[(4-butylphenyl)ethenyl]benzaldehyde | C(CCC)C1=CC=C(C=C1)C=CC1=CC=C(C=O)C=C1 | C19H20O
reactant | ethyl 3-amino-4-fluorobenzoate | NC=1C=C(C(=O)OCC)C=CC1F | C9H10FNO2
product | ethyl 3-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-4-fluorobenzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=C(C(=O)OCC)C=CC2F)C=C1 | C28H28FNO2
